US06174901B1
Step C: Preparation of 1-pyridine-4-yl-2-m-tolyl-ethane-1,2-diol:
To a solution of 2-(tert-butyl-dimethyl-silanyloxy)-2-pyridine-4-yl-1-m-tolyl-ethanol (5 g, 14.5 mmole) in THF (50 mL) was added t-butylamonium fluoride (1M, 16 mL, 16 mmole) at 25° C. The solution was stirred at that temperature for 1 hr before evaporation of solvent and purification (silica gel, hexane/ethyl acetate) to give the title compound. MS (m/z): Calcd. C14H15NO2(M+): 229, found (M+H)+: 230.1, (M−H)−: 228.1

reactant | 2-(tert-butyl-dimethyl-silanyloxy)-2-pyridine-4-yl-1-m-tolyl-ethanol | 14.5 mmole, 5 g | C(C)(C)(C)[Si](OC(C(O)C=1C=C(C=CC1)C)C1=CC=NC=C1)(C)C | C20H29NO2Si
reactant | t-butylamonium fluoride | 16 mmole, 1M, 16 mL | [F-].C(C)(C)(C)[NH3+]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-pyridine-4-yl-2-m-tolyl-ethane-1,2-diol | N1=CC=C(C=C1)C(C(O)C=1C=C(C=CC1)C)O | C14H15NO2
